US07772268B2
6-Amino-1-(4-trifluoromethylpiperidine-1-carbonyl)-1H-indazol-3-yl 4-methyl-piperidine-1-carboxylate
In analogy to example 12, 35.66 mg (0.13 mmol) of 6-amino-1H-indazol-3-yl 4-methylpiperidine-1-carboxylate were reacted with 33.63 mg (0.16 mmol) of 4-trifluoromethylpiperidine-1-carbonyl chloride. Yield: 10 mg (17%), M+H+: 454.13.

reactant | 6-amino-1H-indazol-3-yl 4-methylpiperidine-1-carboxylate | 0.13 mmol, 35.66 mg | CC1CCN(CC1)C(=O)OC1=NNC2=CC(=CC=C12)N | C14H18N4O2
reactant | 4-trifluoromethylpiperidine-1-carbonyl chloride | 0.16 mmol, 33.63 mg | FC(C1CCN(CC1)C(=O)Cl)(F)F | C7H9ClF3NO
product | 6-Amino-1-(4-trifluoromethylpiperidine-1-carbonyl)-1H-indazol-3-yl 4-methyl-piperidine-1-carboxylate | CC1CCN(CC1)C(=O)OC1=NN(C2=CC(=CC=C12)N)C(=O)N1CCC(CC1)C(F)(F)F | C21H26F3N5O3
